US09403801B2
Step 3) 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 4-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate (650 mg, 1.45 mmol) in DCM (20 mL) was added CF3COOH (5 mL) and the reaction mixture was stirred at rt for 2 hours. The reaction mixture was concentrated in vacuo and adjusted to pH=8-9 with a saturated Na2CO3 solution, then the mixture was diluted with H2O (20 mL) and extracted with EtOAc (50 mL×3). The combined organic phases were washed with brine (50 mL), then dried over Na2SO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1 to 5/1) to give the product as a white solid (490 mg, 97%).

reactant | tert-butyl 4-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 1.45 mmol, 650 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C21H30ClN7O2
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine | 490 mg, 97% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CNCC12CCCC2 | C16H22ClN7
